US06987116B2
A mixture of 7-[(2,4-dichloro-5-methoxyphenyl)amino]-2-iodothieno[3,2-b]pyridine-6-carbonitrile (500 mg, 1.05 mmol), (trimethylsilyl)acetylene (237 μL, 1.67 mmol), 12.5 mg of tetrakis(triphenylphosphine)palladium(0) and 5 mg of copper(I) iodide in 3.5 mL of triethylamine and 12 mL of benzene is heated at reflux for 20 hours. The mixture is cooled to room temperature and 50 mL of chloroform are added. The mixture is washed with saturated aqueous sodium chloride, dried over sodium sulfate, filtered through a celite pad and concentrated in vacuo. The resulting brown solid is suspended in diethyl ether. The solids are collected by filtration and washed with diethyl ether to yield 7-[(2,4-dichloro-5-methoxyphenyl)amino]-2-[(trimethylsilyl)ethynyl]thieno[3,2-b]pyridine-6-carbonitrile as yellow crystals, mp 169-171° C.; 1H NMR (CDCl3) δ 0.26 (s, 9H), 3.88 (s, 3H), 6.79 (s, 1H), 6.89 (s, 1H), 7.51 (s, 1H), 7.56 (s, 1H), 8.65 (s, 1H); MS 444.1, 446.1 (M−H)−.

reactant | 7-[(2,4-dichloro-5-methoxyphenyl)amino]-2-iodothieno[3,2-b]pyridine-6-carbonitrile | 1.05 mmol, 500 mg | ClC1=C(C=C(C(=C1)Cl)OC)NC1=C2C(=NC=C1C#N)C=C(S2)I | C15H8Cl2IN3OS
reactant | (trimethylsilyl)acetylene | 1.67 mmol, 237 μL | C[Si](C)(C)C#C | C5H10Si
reactant | chloroform | 50 mL | C(Cl)(Cl)Cl | CHCl3
solvent | triethylamine | 3.5 mL | C(C)N(CC)CC | C6H15N
solvent | benzene | 12 mL | C1=CC=CC=C1 | C6H6
catalyst | tetrakis(triphenylphosphine)palladium(0) | 12.5 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | copper(I) iodide | 5 mg | [Cu]I
product | 7-[(2,4-dichloro-5-methoxyphenyl)amino]-2-[(trimethylsilyl)ethynyl]thieno[3,2-b]pyridine-6-carbonitrile | ClC1=C(C=C(C(=C1)Cl)OC)NC1=C2C(=NC=C1C#N)C=C(S2)C#C[Si](C)(C)C | C20H17Cl2N3OSSi
